US08633207B2
To a stirred mixture of (4-chloroquinazolin-2-yl)(5-fluoropyridin-2-yl)methanone (244 mg, 0.85 mmol) and 5-methyl-3-aminopyrazole (99 mg, 1.02 mmol) in N,N-dimethylformamide (3 mL) were added DIEA (0.3 mL, 4.22 mmol) and potassium iodide (141 mg, 0.85 mmol) and the mixture was stirred at rt for 15 h and then at 60° C. for 2.5 h. The mixture was allowed to cool to rt, and then water was added. The precipitated solid was collected by filtration. A portion of the solid (180 mg) was purified by preparative reverse-phase HPLC eluting with 30% to 70% acetonitrile/0.05% aq HOAc to afford (5-fluoropyridin-2-yl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone (19.6 mg). 1H NMR (300 MHz, CDCl3) δ 12.19 (s, 1H), 10.65 (s, 1H), 8.72-8.69 (m, 2H), 8.26 (m, 1H), 8.00 (td, J=3 Hz, J=8.7 Hz, 1H), 7.92-7.80 (m, 2H), 7.66 (t, J=7.5 Hz, 1H), 6.34 (s, 1H), 2.16 (s, 3H); LC-MS (ESI) m/z 349 (M+H)+.

reactant | (4-chloroquinazolin-2-yl)(5-fluoropyridin-2-yl)methanone | 0.85 mmol, 244 mg | ClC1=NC(=NC2=CC=CC=C12)C(=O)C1=NC=C(C=C1)F | C14H7ClFN3O
reactant | 5-methyl-3-aminopyrazole | 1.02 mmol, 99 mg | CC1=CC(=NN1)N | C4H7N3
reactant | DIEA | 4.22 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | potassium iodide | 0.85 mmol, 141 mg | [I-].[K+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (5-fluoropyridin-2-yl)(4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone | 19.6 mg | FC=1C=CC(=NC1)C(=O)C1=NC2=CC=CC=C2C(=N1)NC1=NNC(=C1)C | C18H13FN6O
